US06303543B1
1-Amino-3-[4-chloro-2-fluoro-5-(2-nitrophenoxy)phenyl]-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine-2,4-dione (Compound 9-21) (Process 15)
A suspension of 3-[4-chloro-2-fluoro-5-(2-nitrophenoxy)phenyl]-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine-2,4,-dione (1.0 g), potassium carbonate (0.37 g), and 2,4-dinitrophenoxyamine (0.54 g) in anhydrous N,N-dimethylformamide (20 ml) was stirred at room temperature for 20 hours. The solution was processed and the resulting oil was chromatographed on silica gel eluting with methylene chloride:hexane:ethyl acetate, 2:3:0.5. The product was crystallized from methylene chloride:hexane:ethyl acetate to give a white solid (0.45 g).

reactant | 3-[4-chloro-2-fluoro-5-(2-nitrophenoxy)phenyl]-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine-2,4,-dione | 1.0 g | ClC1=CC(=C(C=C1OC1=C(C=CC=C1)[N+](=O)[O-])N1C(NC(=CC1=O)C(F)(F)F)=O)F | C17H8ClF4N3O5
reactant | potassium carbonate | 0.37 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,4-dinitrophenoxyamine | 0.54 g | [N+](=O)([O-])C1=C(ON)C=CC(=C1)[N+](=O)[O-] | C6H5N3O5
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 1-Amino-3-[4-chloro-2-fluoro-5-(2-nitrophenoxy)phenyl]-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine-2,4-dione | 0.45 g | NN1C(N(C(C=C1C(F)(F)F)=O)C1=C(C=C(C(=C1)OC1=C(C=CC=C1)[N+](=O)[O-])Cl)F)=O | C17H9ClF4N4O5
